US03998966
A mixture of 18 g. of 6-methoxy-1-tetralone, 60 g. of diethyl carbonate, 2.5 g. of sodium hydride, and 200 ml. of toluene is heated to 60° C for 5 hours. The mixture is cooled, acidified by the addition of 200 ml. of 1N hydrochloric acid, and then extracted with three 75 ml. portions of benzene. The extracts are combined, washed with water to neutrality, and dried over sodium sulfate. The mixture, containing 6-methoxy-2-ethoxycarbonyl-1-tetralone, is treated with 2.5 g. of sodium hydride at room temperature with stirring. Twenty grams of ethyl α-bromoacetate are then added and the mixture is allowed to stand for 12 hours at room temperature. The mixture is added to 500 ml. of water and extracted with methylene chloride. The extracts are combined, washed with water to neutrality, dried over sodium sulfate, and evaporated. The residue, containing 6-methoxy-2-ethoxycarbonyl2-(ethoxycarbonylmethyl)-1-tetralone, is refluxed in 200 ml. of 6N hydrochloric acid for 24 hours and then the reflux mixture is evaporated. The residue, containing 6-methoxy-2-(carboxymethyl)-1-tetralone, is reduced by treating it with 200 ml. of ethanol containing 8 g. of sodium borohydride. After one hour, the mixture is acidified with the addition of 100 ml. of 3N hydrochloric acid, and the resulting mixture is extracted with several portions of methylene chloride. The extracts are combined, washed with water to neutrality, dried over sodium sulfate, and evaporated. The residue, containing 6-methoxy-1-hydroxy-1,2,3,4-tetrahydro-2-naphthylacetic acid, is hydrogenolyzed by hydrogenating with one equivalent of hydrogen in acetic acid containing 300 mg. of 5% palladium-on-barium sulfate. The hydrogenation mixture is filtered and evaporated. The residue, containing 6-methoxy-1,2,3,4-tetrahydro-2-naphthylacetic acid, is dissolved in 200 ml. of diethyl ether and the mixture is then added to a 100 ml. solution of diethyl ether containing 4 g. of diazomethane. The mixture is then evaporated to dryness. The esterified residue is dehydrogenated by adding it to 1 g. of 10% palladium-on-charcoal and heating the resulting mixture for six hours at 200° C. The cooled mixture is diluted with 200 ml. of chloroform, filtered, and evaporated to afford methyl 6-methoxy-2-naphthylacetate.

reactant | 6-methoxy-1-tetralone | COC=1C=C2CCCC(C2=CC1)=O | C11H12O2
reactant | diethyl carbonate | C(OCC)(OCC)=O | C5H10O3
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | one equivalent | [H][H] | H2
reactant | acetic acid | 300 mg | C(C)(=O)O | C2H4O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl 6-methoxy-2-naphthylacetate | COC=1C=C2C=CC(=CC2=CC1)CC(=O)OC | C14H14O3
